### PR TITLE
Simplify floor and ceil on rat

### PR DESCRIPTION
**Pull request by proux01**
Simplify definitions of floor and ceil for rat introduced in https://github.com/math-comp/math-comp/pull/1381

### CODE REVIEW

File: algebra/rat.v [hunk 1]
```diff
@@ -763,13 +763,9 @@ Proof. by case: b; rewrite ?(mul1r, mulN1r) // denqN. Qed.
...
-  else - ((- numq x + denq x - 1) %/ denq x)%Z.
+Definition floorq (x : rat) : int := (numq x %/ denq x)%Z.
 
-Definition ceilq (x : rat) : int :=
-  if 0 <= x then ((numq x + denq x - 1) %/ (denq x))%Z
-  else - (- numq x %/ denq x)%Z.
+Definition ceilq (x : rat) : int := - (- numq x %/ denq x)%Z.
 
 Definition truncnq (x : rat) : nat :=
   if 0 <= x then (`|numq x| %/ `|denq x|)%N else 0%N.
```
Comment (pi8027) [inline algebra/rat.v:771]: Aren't there internal definitions for declaring archimedean instances for `rat`? Shouldn't we move them to the `ratArchimedean` module below and mark `floorP`, `ceilP`, etc. as `Fact`s?

**Review by CohenCyril — APPROVED** [review]
It would be nice to also have the following definitional equalities:
```
floorErat (x : rat) : floor x = (numq x %/ denq x)%Z.
ceilErat (x : rat) : floor x = - (- numq x %/ denq x)%Z.
```

File: doc/changelog/01-added/1381-floorq.md [hunk 2]
```diff
@@ -4,9 +4,10 @@
     `rat_poly_scale`, `dvdp_rat_int`, `dvdpP_rat_int`,
     `irreductible_rat_int`, `solve_QInt_span`, `dec_Qint_span`,
     `eisenstein_crit` (from `intdiv.v`)
-  + definitions `floorq`, `ceilq`, `truncnq`
+  + definitions `ratArchimedean.floor`, `ratArchimedean.ceil`,
```
Comment (CohenCyril) [inline doc/changelog/01-added/1381-floorq.md:7]: I do not think internal definitions should be listed in a changelog.

File: algebra/rat.v [hunk 3]
```diff
@@ -836,6 +817,12 @@ HB.instance Definition _ :=
     ratArchimedean.floorP ratArchimedean.ceilP ratArchimedean.truncnP
     ratArchimedean.intrP ratArchimedean.natrP.
 
+Lemma floorErat (x : rat) : Num.floor x = (numq x %/ denq x)%Z.
+Proof. by []. Qed.
+
+Lemma ceilErat (x : rat) : Num.ceil x = - (- numq x %/ denq x)%Z.
+Proof. by []. Qed.
+
 Lemma Qint_def (x : rat) : (x \is a Num.int) = (denq x == 1). Proof. by []. Qed.
```
Comment (pi8027) [inline algebra/rat.v:826]: Don't we usually put them (including `HB.instance`) in a module (like `ratArchimedean` above) and re-export?

Comment (CohenCyril) [reply algebra/rat.v:826]: Sure but that's usually when we have a `Theory` module to produce, which is not the case. Both styles should be fine here.

**Review by CohenCyril — APPROVED** [review]
